US06927214B1
Preparation of 6-chloro-7-methylsulfanyl-2-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)-3-trifluoromethylquinoxaline
2,6-Dichloro-7-methylsulfanyl-3-trifluoromethylquinoxaline (116 mg, 0.37 mmol, prepared similarly as described above from 6-chloro-7-methylsulfanyl-3-trifluoromethyl-1H-quinoxaline-2-one, dimethylaminopyridine and POCl3) and 2-mercapto-5-methyl-1,3,4-thiadiazole (146 mg, 1.1 mmol) was dissolved in DMF (3.3 ml). Potassium carbonate (20 mg) was added and the reaction mixture was stirred at 50° C. for 2 hours. The cooled mixture was partitioned between diethyl ether and water. The organic layer separated, evaporated and the residue recrystallised from ethanol to afford 80 mg (50%) of the title compound as a yellow solid.

reactant | 2,6-Dichloro-7-methylsulfanyl-3-trifluoromethylquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1C(F)(F)F)Cl)SC | C10H5Cl2F3N2S
reactant | 6-chloro-7-methylsulfanyl-3-trifluoromethyl-1H-quinoxaline-2-one | ClC=1C=C2N=C(C(NC2=CC1SC)=O)C(F)(F)F | C10H6ClF3N2OS
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 1.1 mmol, 146 mg | SC=1SC(=NN1)C | C3H4N2S2
reactant | Potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3.3 ml | CN(C)C=O | C3H7NO
product | 6-chloro-7-methylsulfanyl-2-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)-3-trifluoromethylquinoxaline | 80 mg, 50% | ClC=1C=C2N=C(C(=NC2=CC1SC)SC=1SC(=NN1)C)C(F)(F)F | C13H8ClF3N4S3
